data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][N:21]=[N+]=[N-].CCOP(C)(C)(C)N(C(=[O:10])OC)NC(=O)OC>>[H:20][O+:10]=C(N(NC(=O)OC)P(C)(C)(C)OCC)OC.[N-:21]=[N+]=[N-] 10=20;20,21=21
[CH3:20][Br:21].[CH2-:10]C1=CC=NC=C1>>[CH3:20][CH2:10]C1=CC=NC=C1.[Br-:21] 10=20;20,21=21
C[CH:10]=[O+:11][Zn-](Cl)Cl>>C[CH+:10][O:11][Zn-](Cl)Cl 10,11=11
C[CH:20]=[O+:21]CC[NH:10]C>>C[CH:20]1[NH+:10](CC[O:21]1)C 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CC[O:10]C1(CCCC(O1)C2=CC=CC=C2)O>>[H:20][O+:10](CC)C1(CCCC(O1)C2=CC=CC=C2)O.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
CC(C)CC[N:10](CCCl)C[CH2:20][Cl:21].CCNC(C)C>>CC(C)CC[N+:10]1(C[CH2:20]1)CCCl.[Cl-:21].CCNC(C)C 10=20;20,21=21
C[O+:21]([Si](C)(C)C)[I:20].C[Si](C)(C)C[CH:11]=[CH2:10]>>C[O:21][Si](C)(C)C.C[Si](C)(C)C[CH+:11][CH2:10][I:20] 10,11=10,20;20,21=21
[H:20][NH+:21](CC)C(CCC(=O)C)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[NH:21]C(CCC(=O)C)[O-] 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C(C)(C)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)(C)[C:24]1=[CH:23][CH:22]=[C:21](C=C1)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
[CH+:20]([NH2:10])O>>[CH:20](=[NH2+:10])O 10=20,
[H:20][CH:21]1[C:22](=[N+:23]2CCCC2)CCC3(C1(CCCC3=O)O)C.C1CC[NH:10]C1.O>>[H:20][NH+:10]1CCCC1.CC12CC[C:22](=[CH:21]C1(CCCC2=O)O)[N:23]3CCCC3.O 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(CCC[C+:22]1C)C.OP(=O)(O)[O-:10]>>C[C:21]1=[C:22](CCC1)C.[H:20][O:10]P(=O)(O)O 10=20;20,21=21,22
[CH2:10]=[CH:11]C[CH2+:20].CC1=CC=C(C=C1)S(=O)(=O)[O-].N#N>>[CH2:20]1C[CH+:11][CH2:10]1.CC1=CC=C(C=C1)S(=O)(=O)[O-].N#N 10,11=10,20
C[Si:20](C)(C)F.[Cl-:10]>>C[Si-:20](C)(C)(F)[Cl:10] 10=20,
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)O)N=NC2=CC=CC=C2.[Cl-:10]>>[H:20][Cl:10].C1=CC=C(C=C1)N=N[C:21]2=[CH:22][CH:23]=[C:24](C=C2)O 10=20;20,21=21,22;22,23=23,24
[H:20][O+:21](CC)C(CN)(C1=CN=CC=C1)OCC.CC[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Cl-]>>CCOC(CN)(C1=CN=CC=C1)[O:21]CC.[H:20][OH+:10]CC.CC1=CC=C(C=C1)S(=O)(=O)[O-].[Cl-] 10=20;20,21=21
[H:20][N+:21]1(CCCC(C1)O)C2(CCN(CC2)C3=CC(=C(C=C3)[N+](=O)[O-])OC)O.CC[N:10](CC)CC.CC(=O)[O-]>>[H:20][N+:10](CC)(CC)CC.COC1=C(C=CC(=C1)N2CCC(CC2)([N:21]3CCCC(C3)O)O)[N+](=O)[O-].CC(=O)[O-] 10=20;20,21=21
CCOC(=O)[CH:20](C)[O+:21]=P(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)C(=O)[O-:10].CCOC(=O)NNC(=O)OCC>>CCOC(=O)[CH:20](C)[O:10]C(=O)C1=CC=CC=C1.C1=CC=C(C=C1)P(=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC 10=20;20,21=21
[H:20][C:21](C)(CC)[N+](=O)[O-].[OH-:10]>>[H:20][OH:10].CC[C-:21](C)[N+](=O)[O-] 10=20;20,21=21
[H:20][CH:21](CC(=O)C)[C:22](=[NH+:23]CCOCCO)C.CC(=O)[O-:10].C1=CC=CC=C1.O>>[H:20][O:10]C(=O)C.CC(=O)C[CH:21]=[C:22](C)[NH:23]CCOCCO.C1=CC=CC=C1.O 10=20;22,23=23;20,21=21,22
CC[O:21][C:20](C)(C)[O-:10]>>CC[O-:21].C[C:20](=[O:10])C 10=20;20,21=21
[H:20][O:21]C1(CC2C=CC1C2(OC)OC)C3=CCC(C3)O[Si](C)(C)C(C)(C)C.[H:10][K:11]>>CC(C)(C)[Si](C)(C)OC1CC=C(C1)C2(CC3C=CC2C3(OC)OC)[O-:21].[H:10][H:20].[K+:11] 10,11=10,20;20,21=21
[H:20][C:21]1([C+:22](C=CO1)C)Br.[Br-:10]>>[H:20][Br:10].C[C:22]1=[C:21](OC=C1)Br 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C1=CC=C(C=C1)C(=[O:10])O>>[H:20][O+:10]=C(C1=CC=CC=C1)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[C:20]([NH+:21](C)C)(OC)[O:10]C.[Cl-]>>C[C:20](=[O+:10]C)OC.C[NH:21]C.[Cl-] 10=20;20,21=21
[H:20][O+:21](C(C)C1=CC=CC=C1)P(C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)SC5=NC6=C(S5)C=CC=C6.C1=CC2=C(C=C1)SC(=N2)[S-:10]>>[H:20][S:10]C1=NC2=C(S1)C=CC=C2.CC(C1=CC=CC=C1)[O:21]P(C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)SC5=NC6=C(S5)C=CC=C6 10=20;20,21=21
[H:10][BH3-:11].C[Sn](C)(C)C1=C(C=CC=C1)[CH:20]=[O:21]>>[H:10][CH:20](C1=C(C=CC=C1)[Sn](C)(C)C)[O-:21].[BH3:11] 10,11=10,20;20,21=21
CC[NH2:10].CCOC(=O)CC[C:20](=[O:21])Cl>>CC[NH2+:10][C:20](CCC(=O)OCC)([O-:21])Cl 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)[N+](=O)[O-])S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C(O[CH:22]=[C:21]1S(=O)(=O)O)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][OH:21].C1CC2CC=CCC1[C:11](=[N:10]2)[O-:12].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+].[Cl-]>>[H:20][N:10]1C2CCC([C:11]1=[O:12])CC=CC2.[OH-:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+].[Cl-] 10,11=10,20;20,21=21;12=11
CC(C(=O)NC(CCO)C(=O)OCC1=CC=C(C=C1)OC)N[C:20]([O-:10])(OCC2C3=C(C=CC=C3)C4=CC=CC=C24)[O:21]N5C(=O)CCC5=O>>CC(C(=O)NC(CCO)C(=O)OCC1=CC=C(C=C1)OC)N[C:20](=[O:10])OCC2C3=C(C=CC=C3)C4=CC=CC=C24.C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CSC=[O:10]>>[H:20][O+:10]=CSC.[OH2:21] 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C1=CC=CC=C1)C(=O)OCC.C1CCC2=[N:10]CCCN2CC1.C1=CC=C(C=C1)C2=C(C2=O)C3=CC=CC=C3>>[H:20][N+:10]1=C2CCCCCN2CCC1.CCOC(=O)[CH:21]=[C:22](C1=CC=CC=C1)[O-:23].C1=CC=C(C=C1)C2=C(C2=O)C3=CC=CC=C3 10=20;22,23=23;20,21=21,22
C(CO[C:20](=[NH2+:21])O)[OH:10]>>C1CO[C:20]([OH+:10]1)([NH2:21])O 10=20;20,21=21
[H:20][N+:21]1=CC=CC=C1.CCOS(C)(C)OC(=[N:10]C)NC>>[H:20][N+:10](=C(NC)OS(C)(C)OCC)C.C1=CC=[N:21]C=C1 10=20;20,21=21
CCO[C:10]1(C([O+:11]1[Al-](C)(C)C)CCC2=CC=CC=C2)C(C(F)(F)F)(F)F>>CCO[C+:10](C(CCC1=CC=CC=C1)[O:11][Al-](C)(C)C)C(C(F)(F)F)(F)F 10,11=11
[H:20][OH+:21]C.COP(=[O:10])OC>>[H:20][O+:10]=P(OC)OC.C[OH:21] 10=20;20,21=21
